US08791255B2
The product is prepared according to the procedure described in Example 5, using 260 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 242 mg of 2,3-dimethylaniline in place of the 2,4-difluoroaniline. 190 mg of N-(2,3-dimethylphenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 260 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 2,3-dimethylaniline | 242 mg | CC1=C(N)C=CC=C1C | C8H11N
product | N-(2,3-dimethylphenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 190 mg | CC1=C(C=CC=C1C)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O | C18H22N4O3
